Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy, small bowel resection with
primary anastomosis and lysis of adhesions.

 
History of Present Illness:
___ direct admit from St. E's hx dementia who presented 
initially ___ with abdominal pain and nausea, no emesis. In 
the ED, additionally found to have an UTI for which she was 
given Levoquin, and a foley was inserted. A CT scan was 
performed, showing a closed loop volvulus of the mid small 
bowel, WBC 12.6,
lactic acid 2.8. She received IVF and abx in the ED. Given the 
patient's age, functional statu, dementia, and Xarelto use, the 
surgical team felt she was not a surgical candidate; discussion 
held with patient and niece (HCP), and surgical management 
deferred, with focus on managing pain. Niece signed form making 
her DNR/DNI. Overnight, she was given IV morphine, xarelto was
held, given IV levaquin. UCx showed gram negative rods. By ___ 
AM, the patient was somewhat improved and niece felt like she 
wanted a second opinion at ___. 

 
Past Medical History:
PMH
hyperthyroidism
afib
DVT

PSH
thyroidectomy
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

VS: Temp: 99.2 PO BP: 130/66 HR: 112 RR: 18 O2 sat: 94%
O2 delivery: Ra 
GEN: NAD, Oriented to place
cv: mildly tachycardic
pulm: nonlabored breathing on room air
abd: soft, tender in right upper and lower quadrant, no rebound;
moderately distended; able to palpate distended bowel in right
lower quadrant

Discharge Physical Exam:
VS: 98.6 PO 164 / 73 L Lying 81 16 95 
GEN: Awake, alert, pleasant and interactive.
HEENT: PERRL, EOMI. Nares patient.
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, non-tender, non-distended. Active bowel sounds. 
Midline surgical incision with dermabond CDI. 
EXT: Warm and dry. No edema. 
 
Pertinent Results:
IMAGING
OSH: Ascending aorta 3.3cm.
4mm nodule in right upper lobe. 
in the pelvis there is a single loop of dilated fluid filled
small bowel with diffuse wall thickening that appears to be a
volvulized closed loop. mild dilation of proximal small bowel
loops. nondilated terminal ileum. colon is normal in caliber. 
gallbladder surgical absent. extrahepatic common duct 1.5 cm in
diameter. 
small amount of ascites. hyperdense cyst lower pole L kidney.
1.8cm adrenal nodule. 

___ 02:00AM BLOOD WBC-33.5* RBC-3.78* Hgb-10.9* Hct-33.4* 
MCV-88 MCH-28.8 MCHC-32.6 RDW-14.5 RDWSD-46.2 Plt ___
___ 05:45AM BLOOD WBC-20.9* RBC-3.31* Hgb-9.6* Hct-29.9* 
MCV-90 MCH-29.0 MCHC-32.1 RDW-14.5 RDWSD-47.7* Plt ___
___ 09:33AM BLOOD WBC-18.1* RBC-3.05* Hgb-8.8* Hct-28.1* 
MCV-92 MCH-28.9 MCHC-31.3* RDW-14.6 RDWSD-49.1* Plt ___
___ 04:12PM BLOOD WBC-15.2* RBC-2.73* Hgb-7.9* Hct-24.2* 
MCV-89 MCH-28.9 MCHC-32.6 RDW-14.6 RDWSD-47.0* Plt ___
___ 06:16AM BLOOD WBC-13.0* RBC-2.52* Hgb-7.3* Hct-22.5* 
MCV-89 MCH-29.0 MCHC-32.4 RDW-14.5 RDWSD-46.5* Plt ___
___ 04:52AM BLOOD WBC-10.5* RBC-2.54* Hgb-7.3* Hct-23.5* 
MCV-93 MCH-28.7 MCHC-31.1* RDW-14.6 RDWSD-49.3* Plt ___
___ 04:35AM BLOOD WBC-8.5 RBC-2.62* Hgb-7.6* Hct-24.2* 
MCV-92 MCH-29.0 MCHC-31.4* RDW-14.7 RDWSD-50.0* Plt ___
___ 07:35PM BLOOD WBC-8.4 RBC-3.06* Hgb-8.9* Hct-27.6* 
MCV-90 MCH-29.1 MCHC-32.2 RDW-14.6 RDWSD-48.2* Plt ___
___ 05:26AM BLOOD WBC-8.6 RBC-3.06* Hgb-8.8* Hct-27.6* 
MCV-90 MCH-28.8 MCHC-31.9* RDW-14.5 RDWSD-47.8* Plt ___
___ 06:15AM BLOOD WBC-8.2 RBC-2.98* Hgb-8.5* Hct-26.8* 
MCV-90 MCH-28.5 MCHC-31.7* RDW-14.6 RDWSD-47.4* Plt ___
___ 04:02AM BLOOD WBC-9.1 RBC-3.14* Hgb-8.9* Hct-28.2* 
MCV-90 MCH-28.3 MCHC-31.6* RDW-14.6 RDWSD-46.8* Plt ___
___ 11:50AM BLOOD WBC-9.0 RBC-2.92* Hgb-8.5* Hct-26.2* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-14.6 RDWSD-48.3* Plt ___
___ 06:22PM BLOOD ___ PTT-23.6* ___
___ 07:35PM BLOOD ___ PTT-30.9 ___
___ 12:45PM BLOOD ___ PTT-25.6 ___
___ 05:45AM BLOOD ___ PTT-30.6 ___
___ 02:00AM BLOOD ___ PTT-27.9 ___
___ 02:00AM BLOOD Glucose-125* UreaN-22* Creat-0.7 Na-143 
K-3.9 Cl-111* HCO3-18* AnGap-14
___ 05:45AM BLOOD Glucose-143* UreaN-24* Creat-0.9 Na-141 
K-3.9 Cl-112* HCO3-19* AnGap-10
___ 09:33AM BLOOD Glucose-117* UreaN-24* Creat-0.9 Na-140 
K-4.2 Cl-110* HCO3-19* AnGap-11
___ 04:12PM BLOOD Glucose-108* UreaN-26* Creat-0.9 Na-142 
K-3.9 Cl-110* HCO3-23 AnGap-9*
___ 06:16AM BLOOD Glucose-83 UreaN-28* Creat-0.9 Na-144 
K-3.7 Cl-111* HCO3-22 AnGap-11
___ 04:52AM BLOOD Glucose-93 UreaN-31* Creat-0.7 Na-146 
K-3.6 Cl-116* HCO3-21* AnGap-9*
___ 04:35AM BLOOD Glucose-100 UreaN-20 Creat-0.6 Na-145 
K-3.4* Cl-115* HCO3-18* AnGap-12
___ 07:35PM BLOOD Glucose-144* UreaN-12 Creat-0.5 Na-141 
K-2.9* Cl-112* HCO3-18* AnGap-11
___ 05:26AM BLOOD Glucose-109* UreaN-9 Creat-0.5 Na-141 
K-3.8 Cl-113* HCO3-19* AnGap-9*
___ 06:15AM BLOOD Glucose-99 UreaN-6 Creat-0.7 Na-143 
K-3.3* Cl-115* HCO3-19* AnGap-9*
___ 04:02AM BLOOD Glucose-88 UreaN-5* Creat-0.6 Na-144 
K-4.1 Cl-116* HCO3-19* AnGap-9*
___ 11:50AM BLOOD Glucose-134* UreaN-5* Creat-0.7 Na-143 
K-4.1 Cl-115* HCO3-21* AnGap-7*
___ 02:00AM BLOOD Albumin-3.6 Calcium-9.1 Phos-3.1 Mg-1.5*
___ 05:45AM BLOOD Calcium-8.7 Phos-3.6 Mg-1.5*
___ 09:33AM BLOOD Calcium-8.6 Phos-3.0 Mg-1.4*
___ 04:12PM BLOOD Calcium-8.8 Phos-2.7 Mg-3.0*
___ 06:16AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.5
___ 04:52AM BLOOD Calcium-8.3* Phos-2.1* Mg-2.0
___ 04:35AM BLOOD Calcium-8.3* Phos-2.6* Mg-1.7
___ 07:35PM BLOOD Calcium-8.3* Phos-2.0* Mg-1.5*
___ 05:26AM BLOOD Calcium-8.4 Phos-4.1 Mg-2.3
___ 06:15AM BLOOD Calcium-8.5 Phos-2.8 Mg-1.8
___ 04:02AM BLOOD Calcium-8.7 Phos-3.6 Mg-1.9
___ 11:50AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.8
___ 04:42AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.0
___ 10:51AM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*

___ 4:30 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
C. difficile PCR (Final ___: 
  NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

___ 10:51 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.
 
Brief Hospital Course:
Ms. ___ is an ___ with pmh afib on Xarelto, dementia who 
was transferred from OSH as a direct admit on ___ after she 
had a CT scan demonstrating a closed loop volvulus of the mid 
small bowel, WBC 12.6, lactic acid 2.8. At the OSH she was 
initially made DNR/DNI and then showed improvement and she was 
transferred to ___ for a second opinion. 

Given concerning abdominal exam and CT, the Acute Care Surgery 
team discussed operative intervention with niece and patient, 
and the patient was consented for surgery. On ___ the 
patient was taken to the OR and underwent exploratory 
laparotomy, small bowel resection with primary anastomosis and 
lysis of adhesions. This procedure went well. (Please see 
operative report for details). The patient had a nasogastric 
tube left in place which the patient self removed. The Geriatric 
service was consulted to help with delirium management. 

The patient had episodes of atrial fibrillation with RVR, 
requiring intermittent IV pushes of metoprolol and diltiazem. 
She was started on digoxin for heart rate control and was 
resumed on her PO metoprolol. She was initially started on a 
heparin drip for anticoagulation in the setting of atrial 
fibrillation and initiating treatment of an anitarrhythmic. Once 
tolerating a regular diet, she was transitioned to Xarelto. She 
started passing loose stool, c.diff study was sent which was 
negative. Diet was advanced and she tolerated a regular diet. 
IVF were discontinued and IV antibiotics were discontinued on 
POD #4.  

The patient worked with Physical Therapy and it was recommended 
that she be discharged to rehab. At the time of discharge, the 
patient was doing well, afebrile and hemodynamically stable. The 
patient was tolerating a diet, ambulating, voiding without 
assistance, and pain was well controlled. The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Rivaroxaban 15 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Metoprolol Tartrate 25 mg PO BID 
4. Propylthiouracil 100 mg PO Q8H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Digoxin 0.125 mg PO EVERY OTHER DAY  
3.  Rivaroxaban 15 mg PO DINNER  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Propylthiouracil 100 mg PO Q8H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Small bowel obstruction with closed loop

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with a closed loop bowel 
obstruction and you were taken to the operating room where you 
underwent exploratory laparotomy, removal of the affected 
portion of bowel and removal of scar tissue bands.  This 
procedure went well.  You have now had return of bowel function 
and are tolerating a regular diet.  You have a heart arrhythmia, 
called atrial fibrillation, for which you take metoprolol for at 
home.  Your heart rate was intermittently elevated with this 
rhythm while in the hospital, so a new medication, called 
Digoxin, was started.  

You are now ready to be discharged to rehab to continue your 
recovery.  Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___